US07345180B2
2-Methyl-7-trifluoromethylpyrazolo[1,5-a]pyrimidine-6-carboxylic acid
3-Amino-5-methylpyrazole (389 mg) and ethyl (ethoxymethylidene)trifluoroacetoacetate (960 mg) were dissolved in ethanol (10 ml) and stirred for 1.5 hours at 70° C. Conc. hydrochloric acid (1 mg) was added thereto, and the mixture was stirred for additional 1 hour. The mixture was cooled to room temperature and concentrated under reduced pressure. Ethanol (10 ml) and 5 N sodium hydroxide solution (3 ml) were added to the residue and then stirred for 1 hour at 70° C. The mixture was cooled to room temperature, and water was added to the mixture which was then washed with ethyl acetate. 2 N Hydrochloric acid was added to the aqueous phase until it became acidic, and precipitated crystals were collected by filtration and washed with water and n-hexane. The product was dried under reduced pressure to give the title compound (102 mg, Y.:42%) as white crystals.

reactant | 3-Amino-5-methylpyrazole | 389 mg | NC1=NNC(=C1)C | C4H7N3
reactant | ethyl (ethoxymethylidene)trifluoroacetoacetate | 960 mg | C(C)OC=C(C(=O)OCC)C(=O)C(F)(F)F | C9H11F3O4
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | hydrochloric acid | 1 mg | Cl | ClH
product | 2-Methyl-7-trifluoromethylpyrazolo[1,5-a]pyrimidine-6-carboxylic acid | 102 mg, 42% | CC1=NN2C(N=CC(=C2C(F)(F)F)C(=O)O)=C1 | C9H6F3N3O2
